US04171366
8.4 g (0.1 mole) of sodium bicarbonate is added, with stirring, to the mixture of 25.5 g (0.1 mole) of 5-chloro-2-(2-thienylthio)-benzaldehyde and 17.9 g (0.1 mole) of hippuric acid in 34.7 g (0.34 mole) of acetic anhydride, and the reaction mixture is stirred at 90°-95° for two hours. It is thereupon cooled to 25°; to the thick crystal mass is added 300 ml of 50% ethanol, the solid substance is filtered off with suction and is washed with 150 ml of 50% ethanol. Drying in a vacuum chamber leaves 2-phenyl-4-[5-chloro-2-(2-thienylthio)-benzylidene]-2-oxazolin-5-one in the form of yellow crystals, m.p. 125°-127°.

reactant | sodium bicarbonate | 0.1 mole, 8.4 g | C([O-])(O)=O.[Na+]
reactant | 5-chloro-2-(2-thienylthio)-benzaldehyde | 0.1 mole, 25.5 g | ClC=1C=CC(=C(C=O)C1)SC=1SC=CC1 | C11H7ClOS2
reactant | hippuric acid | 0.1 mole, 17.9 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | acetic anhydride | 0.34 mole, 34.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-phenyl-4-[5-chloro-2-(2-thienylthio)-benzylidene]-2-oxazolin-5-one | C1(=CC=CC=C1)C=1OC(C(N1)=CC1=C(C=CC(=C1)Cl)SC=1SC=CC1)=O | C20H12ClNO2S2
